US09314026B2
2-(4-fluorophenyl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole [VI-1]
To a solution of crude 3-[3-(4-fluorophenyl)-1H-pyrazol-5-yl]propyl methanesulfonate (52 g, 0.122 mol), in 300 mL N,N′-Dimethylformamide is added at 10° C. sodium iodide (1.84 g, 12.2 mmol). Then, sodium hydride (60%, 5.4 g, 0.134 mol) is added portionwise and the mixture is stirred for 30 min at 10° C. followed by 1 h at room temperature. To the resulting brown suspension is added saturated ammonium chloride and the mixture is extracted with ethyl acetate. The extracts are dried and evaporated in vacuo. The obtained crude product is purified by trituration with 50 mL water+50 mL n-hexane. After drying of the solid in vacuo 22.9 g (90%) of the product is obtained and is being used without further purification in the next step.

reactant | 3-[3-(4-fluorophenyl)-1H-pyrazol-5-yl]propyl methanesulfonate | 0.122 mol, 52 g | CS(=O)(=O)OCCCC1=CC(=NN1)C1=CC=C(C=C1)F | C13H15FN2O3S
reactant | sodium iodide | 12.2 mmol, 1.84 g | [I-].[Na+]
reactant | sodium hydride | 0.134 mol, 5.4 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N′-Dimethylformamide | 300 mL | CN(C)C=O | C3H7NO
product | 2-(4-fluorophenyl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole | FC1=CC=C(C=C1)C=1C=C2N(N1)CCC2 | C12H11FN2
